US05585376
2-Bromo-1-(3,3-dimethyl-piperidin-1-yl)-ethanone
A mixture of 3,3-dimethylpiperidine (10 g) and triethylamine (12.3 ml) in dry dichloromethane (50 ml) was added dropwise to an ice-cold solution of bromoacetyl bromide (7.7 ml) in dry dichloromethane (100 ml). The mixture was stirred at 23° for 18 h then recooled to 0°. Iced water (200 ml) was added and the layers separated. The aqueous layer was further extracted with dichloromethane (2×200 ml) then the combined extracts were washed with 2N HCl (200 ml) and saturated brine (200 ml), dried and evaporated to give the title compound (17.28 g) as a brown oil.

reactant | 3,3-dimethylpiperidine | 10 g | CC1(CNCCC1)C | C7H15N
reactant | triethylamine | 12.3 ml | C(C)N(CC)CC | C6H15N
reactant | bromoacetyl bromide | 7.7 ml | BrCC(=O)Br | C2H2Br2O
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 2-Bromo-1-(3,3-dimethyl-piperidin-1-yl)-ethanone | 17.28 g | BrCC(=O)N1CC(CCC1)(C)C | C9H16BrNO
